US08022205B2
Morpholinoformamidine bromate salt (200 mg, 0.952 mmol), 3-(3-methoxybenzoyl)-dihydrofuran-2-one (419 mg, 1.904 mmol) and sodium t-butoxide (183 mg, 1.904 mmol) were added into a microwave reaction tube, followed by being dissolved in t-butanol (3 ml). After irradiation of microwave (200 W, 120° C.) for 1 hour, the solvent was removed under reduced pressure, to obtain a crude product as a brown solid. The crude was purified by silica gel column chromatography (DCM/MeOH=95/5), to obtain 5-(2-hydroxyethyl)-6-(3-methoxyphenyl)-2-(morpholin-4-yl)-pyrimidin-4-ol, and 4-(3-methoxyphenyl)-2-(morpholin-4-yl)-5,6-furo[2,3-d]pyrimidine as colorless solid.

reactant | Morpholinoformamidine bromate salt | 0.952 mmol, 200 mg | Br(=O)(=O)O.O1CCN(CC1)C(=N)N
reactant | 3-(3-methoxybenzoyl)-dihydrofuran-2-one | 1.904 mmol, 419 mg | COC=1C=C(C(=O)C2C(OCC2)=O)C=CC1 | C12H12O4
reactant | sodium t-butoxide | 1.904 mmol, 183 mg | CC(C)([O-])C.[Na+]
solvent | t-butanol | 3 ml | C(C)(C)(C)O | C4H10O
product | 5-(2-hydroxyethyl)-6-(3-methoxyphenyl)-2-(morpholin-4-yl)-pyrimidin-4-ol | OCCC=1C(=NC(=NC1C1=CC(=CC=C1)OC)N1CCOCC1)O | C17H21N3O4
